US06486313B1
(S)-3-Indol-2-yl-2-hydroxypropyl p-toluenesulfonate (S)-2
To a solution of (S)-3-indol-2-yl-propane-1,2-diol (S)-1 (15 g, 78.5 mmol) in dry pyridine (120 mL) was added p-toluenesulfonyl chloride (15.5 g, 81.3 mmol) at 0° C. After stirring for 5 hours at 0° C., the solution was poured into cold hydrochloric acid (100 mL, 6N) and extracted with ether (3×60 mL). The combined extracts were washed with hydrochloric acid (6N, 2×30 mL) followed by brine (2×80 mL) and dried over anhydrous sodium sulfate. The solvent was evaporated and the residue was purified by flash chromatography to give 24.5 g (90.4%) of the title compound as a white solid.

reactant | (S)-3-indol-2-yl-propane-1,2-diol | 78.5 mmol, 15 g | N1C(=CC2=CC=CC=C12)C[C@@H](CO)O | C11H13NO2
reactant | p-toluenesulfonyl chloride | 81.3 mmol, 15.5 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | hydrochloric acid | 6N, 100 mL | Cl | ClH
solvent | pyridine | 120 mL | N1=CC=CC=C1 | C5H5N
product | (S)-3-Indol-2-yl-2-hydroxypropyl p-toluenesulfonate | 24.5 g, 90.4% | C1(=CC=C(C=C1)S(=O)(=O)OC[C@H](CC=1NC2=CC=CC=C2C1)O)C | C18H19NO4S
